* 
* Linear Technology LT1187 op amp model  
* Written: 12-02-1992 15:32:08 Type: Bipolar NPN input, internal comp.
* Typical specs: 
* Vos=2.0E-03, Ib=0.5E-6, Ios=0.2E-6, GBP=5.0E+07Hz, Phase mar.= 40 deg, 
* SR(-)=1.7E+02V/us, SR(+)=1.7E+02V/us, Av= 77.0dB, CMRR=100.0dB, 
* Vsat(+)=1.000V, Vsat(-)=0.500V, Isc=+35/-35mA, Rout=  10ohms, Iq=%12.00mA.
* 
* Connections: + - V+V-O 
.SUBCKT LT1187 3 2 7 4 6 REF FB
*****LT1187 FRONT END***** 
RL1A 7 1A 500
RL2A 7 5A 500
RE1A 9A 10A 1143
RE2A 6A 8A 1150
I1 9A 4 DC 234UA
I2 10A 4 DC 234UA
I3 6A 4 DC 245UA
I4 8A 4 DC 245UA
Q1A 1A 3 9A MOD1
Q2A 5A 2 10A MOD2
Q3A 1A REF 6A MOD1
Q4A 5A FB 8A MOD2
RCM1 9A 0 10MEG
RCM2 6A 0 10MEG
CCM1 9A 0 .4PF
CCM2 6A 0 .4PF
CIN1 2 3 2PF
CIN2 REF FB 2PF
.MODEL MOD1 NPN BF=500 IS=1.00E-16
.MODEL MOD2 NPN BF 550 IS=1.04E-16
***************************
* INPUT
RC1 7  80 8.8419E+01
RC2 7  90 8.8419E+01
Q1  80 1A  10 QM1 
Q2  90 5A  11 QM2 
CIN 2  3  1.0000E-13
C1  80 90 1.5000E-11
RE1 10 12 +7.8281E+01
RE2 11 12 +7.8281E+01
IEE 12 4  5.1000E-03
RE  12 0  3.9216E+04
* INTERMEDIATE 
GCM 0  8  12 0  2.2566E-08
GA  8  0  80 90 1.1310E-02
R2  8  0  1.0000E+05
C2  1  8  18.000E-12
GB  1  0  8  0  9.8244E-01
RO2 1  0  9.0000E+00
* OUTPUT 
RSO 1  6  1.0000E+00
ECL 18 0  1  6  2.8561E+01
GCL 0  8  20 0  1.0000E+00
RCL 20 0  1.0000E+01
D1  18 19 DM1  
VOD1 19 20 0.0000E+00
D2  20 21 DM1  
VOD2 21 18 0.0000E+00
* 
D3A 131 70 DM3 
D3B 13 131 DM3 
GPL 0  8  70 7  1.0000E+00
VC  13 6  2.5416E+00
RPLA 7  70 1.0000E+01
RPLB 7  131 1.0000E+03
D4A 60 141 DM3 
D4B 141 14  DM3 
GNL 0  8  60 4  1.0000E+00
VE  6  14 2.0416E+00
RNLA 60 4  1.0000E+01
RNLB 141 4  1.0000E+03
* 
IP  7  4  6.9000E-03
DSUB 4  7  DM2  
* MODELS 
.MODEL QM1 NPN (IS=8.0000E-16 BF=1.7000E+09)
.MODEL QM2 NPN (IS=8.0003E-16 BF=5.1000E+09)
.MODEL DM1  D   (IS=1.0000E-20)
.MODEL DM2  D   (IS=8.0000E-16 BV=2.1600E+01)
.MODEL DM3  D   (IS=1.0000E-16)
.ENDS LT1187
* - - - - - * fini LT1187 * - - - - - * [oamm vn02 10/29/90]
***
*         (C) COPYRIGHT LINEAR TECHNOLOGY CORPORATION 1993
*                       All rights reserved.
* 
*   Linear Technology Corporation hereby grants the users of this
* macromodel a non-exclusive, nontransferrable license to use this
*            macromodel under the following conditions:
* 
* The user agrees that this macromodel is licensed from Linear
* Technology and agrees that the macromodel may be used, loaned,
* given away or included in other model libraries as long as this
* notice and the model in its entirety and unchanged is included.
* No right to make derivative works or modifications to the
* macromodel is granted hereby.  All such rights are reserved.
* 
* This model is provided as is.  Linear Technology makes no
* warranty, either expressed or implied about the suitability or
* fitness of this model for any particular purpose.  In no event
* will Linear Technology be liable for special, collateral,
* incidental or consequential damages in connection with or arising
* out of the use of this macromodel.  It should be remembered that
* models are a simplification of the actual circuit.
* 
* Linear Technology reserves the right to change these macromodels
* without prior notice.  Contact Linear Technology at 1630 McCarthy
* Blvd., Milpitas, CA, 95035-7487 or telephone 408/432-1900 for
* datasheets on the actual amplifiers or the latest macromodels.
* 
* ----------------------------------------------------------------------- *